US06749977B1
This Example illustrates the synthesis of polymeric blocked developer PBD1. First, 1-(4-vinylbenzyl)-2-methylbenzimidazole was prepared. A suspension of 2-methylbenzimidazole (25.0 g, 0.19 mol), 4-chloromethylstyrene (31.8 g, 0.21 mol), powdered potassium hydroxide (10.6 g, 0.19 mol), and potassium carbonate (13.1 g, 0.1 mol) in 200 mL of dry tetrahydrofuran was stirred at 25° C. for 5 d. The reaction mixture was filtered, and the solid residue extracted with additional tetrahydrofuran. The combined liquids were concentrated at reduced pressure, and the resulting brown oil was triturated with ligroin and held at −15° C. for a few hours to induce crystallization. The ligroin was decanted from the product, which was then purified by recrystallization from 70% methanol/30% water. A cream colored solid product (43.2 g, 92%) was obtained after drying. 1H NMR (CDCl3) δ 2.61 (s, 3H), 5.28 (d, J=11.0, 1H), 5.33 (s, 2H), 5.75 (d, J=17.6, 1H), 6.7 (m, 1H), 7.05 (d, J=8.1, 2H), 7.25 (m, 2H), 7.37 (d, J=8.2, 2H), 7.78 (d, J=7.3, 1H). Electrospray mass spectrometry (ES-MS) m/e 249+ (M+1).

reactant | 2-methylbenzimidazole | 0.19 mol, 25.0 g | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | 4-chloromethylstyrene | 0.21 mol, 31.8 g | ClCC1=CC=C(C=C)C=C1 | C9H9Cl
reactant | potassium hydroxide | 0.19 mol, 10.6 g | [OH-].[K+]
reactant | potassium carbonate | 0.1 mol, 13.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-(4-vinylbenzyl)-2-methylbenzimidazole | C(=C)C1=CC=C(CN2C(=NC3=C2C=CC=C3)C)C=C1 | C17H16N2
